US07482340B2
(S)-4-Amino-4-[6-(2-phenylchroman-6-yloxy)pyridin-3-ylcarbamoyl]butyric acid was prepared as described for piperidine-4-carboxylic acid [6-(2-phenyl-chroman-6-yloxy)pyridine-3-yl]amine in Example 19 a) and b) but replacing N-(tert-butoxycarbonyl)isonipecotic acid with (S)-2-carboxyaminopentanedioic acid 5-tert-butyl ester.

reactant | piperidine-4-carboxylic acid [6-(2-phenyl-chroman-6-yloxy)pyridine-3-yl]amine | C1(=CC=CC=C1)C1OC2=CC=C(C=C2CC1)OC1=CC=C(C=N1)N.N1CCC(CC1)C(=O)O
reactant | (S)-2-carboxyaminopentanedioic acid 5-tert-butyl ester | C(C)(C)(C)OC(CC[C@@H](C(=O)O)NC(=O)O)=O | C10H17NO6
product | (S)-4-Amino-4-[6-(2-phenylchroman-6-yloxy)pyridin-3-ylcarbamoyl]butyric acid | N[C@@H](CCC(=O)O)C(NC=1C=NC(=CC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1)=O | C25H25N3O5
